US05597842
A stirred mixture of 6-fluoro-3-(4-piperidinyl)-1,2 benzisoxazole (2.01 g; 9.13 mmol), K2CO3 (2.0 g), and ]-[3-(3-chloropropoxy)-4-methoxy-phenyl]phenyl-methanone (3.93 g; 11.3 mmol) and acetonitrile (50 ml) was heated at reflux for 4 hours. At the end of the reaction, the solvent was evaporated and the residue was partitioned between water (150 ml) and dichloromethane (400 ml). The dichioromethane solution was washed with water and brine (100 ml), dried over MgSO4, then concentrated to an oil. The purification was done by flash chromatography over a silica gel column (SiO2 40 g; eluted with dichloromethane, 300 ml; 1% methanol in dichloromethane, 850 ml). The material thus obtained as a colorless oil solidified on standing. Recrystallization from ethanol (150 ml) gave 1-[3-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-4-methoxyphenyl]-phenylmethanone as white crystals, 3.07 g (63%), m.p.=140°-141° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2 benzisoxazole | 9.13 mmol, 2.01 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 2.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | [3-(3-chloropropoxy)-4-methoxy-phenyl]phenyl-methanone | 11.3 mmol, 3.93 g | ClCCCOC=1C=C(C=CC1OC)C(=O)C1=CC=CC=C1 | C17H17ClO3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-[3-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-4-methoxyphenyl]-phenylmethanone | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC=2C=C(C=CC2OC)C2(CC=CC=C2)C=O)C=C1 | C29H31FN2O4
